US07452848B2
To a 250 mL three-necked flask equipped with a magnetic stirrer, reflux condenser, thermometer and nitrogen purge were added 20 g (0.0472 mole) of N,N′-dimethyl-N,N′-dilaurylethylenediamine, 25.54 g (0.1180 mole) of sodium iodoacetate, 80 mL of isopropanol, and 8 mL of deionized water at ambient temperature. The mixture was heated with stirring to 80° C. and maintained at that temperature for 4.5 hrs. After cooling to room temperature, the solvent was removed under vacuum with a rotary evaporator. Addition of isopropanol (about 100 mL), vacuum filtration, and subsequent removal of isopropanol under vacuum with a rotary evaporator yielded pure N,N′-di(carboxymethyl)-N,N′-dimethyl-N,N′-dilaurylethylenediammonium dihydroxide inner salt, shown as Example 16 in Table 3. Additional bis betaines may be prepared and characterized using procedures similar to those described above. Some of these are shown in Table 3, in which the compounds have the following structure.

reactant | N,N′-dimethyl-N,N′-dilaurylethylenediamine | 0.0472 mole, 20 g | CN(CCN(CCCCCCCCCCCC)C)CCCCCCCCCCCC | C28H60N2
reactant | sodium iodoacetate | 0.1180 mole, 25.54 g | ICC(=O)[O-].[Na+]
reactant | isopropanol | 80 mL | C(C)(C)O | C3H8O
reactant | water | 8 mL | O | H2O
product | N,N′-di(carboxymethyl)-N,N′-dimethyl-N,N′-dilaurylethylenediammonium dihydroxide | [OH-].[OH-].C(=O)(O)C[N+](CC[N+](CCCCCCCCCCCC)(C)CC(=O)O)(CCCCCCCCCCCC)C | InChI=1S/C32H64N2O4.2H2O/c1-5-7-9-11-13-15-17-19-21-23-25-33(3,29-31(35)36)27-28-34(4,30-32(37)38)26-24-22-20-18-16-14-12-10-8-6-2;;/h5-30H2,1-4H3;2*1H2
